US04831190
An amount of 2 g (30.7 mmole) of 86% potassium hydroxide was dissolved in 10 ml of water and heated to 90° C. To this solution, under stirring, was added gradually 1.0 g (4.20 mmole) of 3,4,5,6-tetrafluorophthalic acid, and the reaction was carried out at 90° C. for 9 hours. After left to cool, to the aqueous reaction solution was added concentrated hydroxychloric acid to adjust pH to 2 to give 3,5,6-trifluoro-4-hydroxyphthalic acid. To this was added 15 ml of diethyl ether, and 3,5,6-trifluoro-4-hydroxyphthalic acid was extracted in the organic layer. This extraction operation was repeated for 5 times, and the diethyl ether layers obtained were dried over anhydrous sodium sulfate, then evaporated to dryness and washed with chloroform to give 1.05 g of 3,5,6-trifluoro-4-hydroxyphthalic acid monohydrate.

reactant | potassium hydroxide | 30.7 mmole, 2 g | [OH-].[K+]
reactant | 3,4,5,6-tetrafluorophthalic acid | 4.20 mmole, 1.0 g | FC1=C(C(C(=O)O)=C(C(=C1F)F)F)C(=O)O | C8H2F4O4
reactant | hydroxychloric acid | O[ClH](=O)(=O)O | ClH3O4
solvent | water | 10 ml | O | H2O
product | 3,5,6-trifluoro-4-hydroxyphthalic acid | FC1=C(C(C(=O)O)=C(C(=C1O)F)F)C(=O)O | C8H3F3O5
